US04404207
To 3.5 l of fuming sulfuric acid was added, with cooling, 600 g (3.73 moles) of 6-fluoroquinaldine in small portions. To this mixture was added about 0.1 g of sodium nitrite, followed by the dropwise addition of 261 ml of fuming red nitric acid over a six hour period while maintaining the temperature at 5°-10° C. The mixture was stirred at 20° C. for sixteen hours and poured into 3 gallons of ice. The mixture was basified with ammonium hydroxide, with cooling. The precipitated solid was separated by filtration, then dissolved in about two liters of warm toluene. The solution as dried over magnesium sulfate, filtered and evaporated to provide the yellow solid 6-fluoro-5-nitroquinaldine, m.p. 105°-108° C., which was recrystallized from 1,2-dichloroethane. The structural assignment was confirmed by nuclear magnetic resonance and infrared spectral analyses.

reactant | sulfuric acid | 3.5 l | S(O)(O)(=O)=O | H2O4S
reactant | 6-fluoroquinaldine | 3.73 moles, 600 g | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | sodium nitrite | about 0.1 g | N(=O)[O-].[Na+]
reactant | nitric acid | 261 ml | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 6-fluoro-5-nitroquinaldine | FC=1C(=C2C=CC(=NC2=CC1)C)[N+](=O)[O-] | C10H7FN2O2
